* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\Error_Amplifier.asc

.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N005 N008 GNDA 0 2N3904
R1 N008 GNDA 1Meg
Q2 N001 N005 N008 0 2N3904
M1 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N005 1Meg
M11 N006 N001 VDDA VDDA CMOSP l=180n w=5u
M12 N006 N006 GNDA GNDA CMOSN l=180n w=1u
M2 N007 N006 GNDA GNDA CMOSN l=180n w=2u
M3 N002 N002 VDDA VDDA CMOSP l=360n w=2u
M4 N003 N002 VDDA VDDA CMOSP l=360n w=2u
M5 N002 VINN N007 GNDA CMOSN l=180n w=1u
M6 N003 VINP N007 GNDA CMOSN l=180n w=1u
M7 N004 N003 VDDA VDDA CMOSP l=180n w=10u
M8 N004 N006 GNDA GNDA CMOSN l=180n w=2u
M9 GNDA N004 VOUT VOUT CMOSP l=180n w=10u
M10 VOUT N001 VDDA VDDA CMOSP l=180n w=5u
.include tsmc018.lib
.ends error_amplifier

